US06743794B2
Pyridin-3-yl-(pyridin-2-yloxy)-acetic Acid Ethyl Ester
Sodium hydride (520 mg; 21.8 mmol; 1.4 equiv) was stirred with 2-hydroxypyridine (1.73 g; 18.2 mmol; 1.2 equiv) in DMF (30 mL) for 15 min. This solution was added to an aliquot of bromo-pyridin-3-yl-acetic acid ethyl ester (approx. 3.6 g; 15 mmol) in DMF (20 mL). After stirring overnight, at rt., the resulting opaque black solution was concentrated in vacuo, dissolved in 20% isopropyl alcohol/chloroform, washed 5 times with saturated NaHCO3(aq), washed twice with saturated NaCl(aq), and dried over Na2SO4(s). After filtration, the solution was concentrated in vacuo and purified by SiO2 column chromatography on two consecutive columns with a 1% methanol/chloroform mobile phase and then an ethyl acetate/hexanes mobile phase (30%, 40%, 50% step gradient). A light yellow oil (134 mg; approx. 3% yield) was isolated. MS(ES) calc'd: [M+H]+=259.2 m/z. Found: 259.1 m/z.

reactant | Sodium hydride | 21.8 mmol, 520 mg, 1.4 equiv | [H-].[Na+]
reactant | 2-hydroxypyridine | 18.2 mmol, 1.73 g, 1.2 equiv | OC1=NC=CC=C1 | C5H5NO
reactant | bromo-pyridin-3-yl-acetic acid ethyl ester | 15 mmol, approx. 3.6 g | C(C)OC(C(C=1C=NC=CC1)Br)=O | C9H10BrNO2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Pyridin-3-yl-(pyridin-2-yloxy)-acetic Acid Ethyl Ester | approx. 3% yield | C(C)OC(C(OC1=NC=CC=C1)C=1C=NC=CC1)=O | C14H14N2O3
